US07081458B2
IV. (R)-1-(4-Chloro-3-Methoxy-Phenyl)-4-[1-(3,4-Dimethoxy-Phenyl)-Ethyl]-Piperazine
A quantity of 4.2 g (17 mmoles, 1 eq) of (R)-1-[1-(3,4-dimethoxy-phenyl)-ethyl]-piperazine and 4.4 g (20 mmoles, 1.2 eq) of 5-Bromo-2-chloro-anisole was dissolved in 110 mL of anhydrous toluene, and the solution is purged with N2 for 20 minutes. To the solution was added 0.33 g (0.5 mmoles, 0.03 eq) of rac-2, 2′-Bis(diphenyl-phosphino)-1,1′-binapphtyl, 0.031 g (0.34 mmole, 0.02 eq) of tris(dibenzylideneacetone)-dipalladium(0) and 2.4 g (22 mmoles, 1.3 eq) of potassium tert-butoxide in order. The mixture was heated at 80° C. under N2 overnight. After cooled down, the reaction was filtered through Celite. The organic solution is washed with 1N NaOH and brine, dried over Na2SO4 and concentrated. The residue was purified by flash chromatography on silica gel eluted with 1:1 ethyl acetate: hexanes to afford brownish oil. The product (compound 4) was converted to its HCl salt, giving yellowish solid (4.1 g, 53%). Mp: 172–6° C. Analysis: 1H NMR (300 MHz, DMSO): 11.8 (1H, s), 9.2 (1H, s), 7.48 (1H, s), 7.21(1H, d), 7.12 (1H, dd), 6.99 (1H, d), 6.68 (1h, d), 6.59 (1H, dd), 4.42 (1H, t), 3.80 (12H, m), 3.39 (1H, t), 3.19 (1H, t), 2.99 (3H, m), 1.73 (3H, d). MS (LC-MS): Calculated for C21H27ClN2O3 390.90, found 391.38 (M+).

reactant | (R)-1-[1-(3,4-dimethoxy-phenyl)-ethyl]-piperazine | 17 mmoles, 4.2 g, 1 eq | COC=1C=C(C=CC1OC)[C@@H](C)N1CCNCC1 | C14H22N2O2
reactant | 5-Bromo-2-chloro-anisole | 20 mmoles, 4.4 g, 1.2 eq | BrC=1C=CC(=C(C1)OC)Cl | C7H6BrClO
reactant | potassium tert-butoxide | 22 mmoles, 2.4 g, 1.3 eq | CC(C)([O-])C.[K+]
reactant | HCl | Cl | ClH
solvent | toluene | 110 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)-dipalladium(0) | 0.34 mmole, 0.031 g, 0.02 eq | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (R)-1-(4-Chloro-3-Methoxy-Phenyl)-4-[1-(3,4-Dimethoxy-Phenyl)-Ethyl]-Piperazine | 4.1 g, 53% | ClC1=C(C=C(C=C1)N1CCN(CC1)[C@H](C)C1=CC(=C(C=C1)OC)OC)OC | C21H27ClN2O3
